US04264518
2.1 Grams (10.0 mmol) of the above complex is suspended in 15 ml of dry ether, and 12 ml of dimethyl sulfide is added under nitrogen. The resulting solution is cooled to -60° and another 14 ml of dimethyl suflide is added to dissolve the precipitate that forms. The Grignard reagent (24 ml, 9.6 mmol) from B above is added at -60° over 5 min and the reaction is stirred at -45° for 2 hr. Trimethylsilyl 3-butynyl ether (1.4 g, 9.8 mmol) (preparation follows) in ether/pentane (5 ml/30 ml) is added at -45°; the mixture is allowed to warm to -25° with stirring for several hours. The reaction is then poured into a pre-cooled (<-10°) solution of HCl/sat. NH4Cl, allowed to warn to RT and stirred overnight. The reaction is worked up by water and extraction with ether (2×). The ether phases are combined, washed with sat (NH4)2SO4, water and brine, filtered and solvent removed to give 7-methyl-3-methylene-7-octen-1ol.

reactant | dimethyl sulfide | 12 ml | CSC | C2H6S
reactant | Trimethylsilyl 3-butynyl ether | 9.8 mmol, 1.4 g | C(CC#C)O[Si](C)(C)C | C7H14OSi
reactant | HCl | Cl | ClH
reactant | NH4Cl | [NH4+].[Cl-]
reactant | ether pentane | 5 ml | CCOCC.CCCCC
solvent | ether | 15 ml | CCOCC | C4H10O
product | 7-methyl-3-methylene-7-octen-1ol | CC(CCCC(CCO)=C)=C | C10H18O
